US06603008B1
5-Hydrazino-2-pyridinesulfonamide Hydrochloride (Step 1)
To a suspension of 5-amino-2-pyridinesulfonamide (7.0 g, 0.040 mol, C. Komfeld, J. Amer. Chem. Soc. 1695 (1942)) in conc HCl (60 mL) and H2O (20 mL), sodium nitrite (3.6 g, 0.052 mol) in H2O (50 mL) was added dropwise at 0° C. and the mixture was stirred for 30 min. The mixture changed to yellow brown solution and tin(II) chloride dihydrate (36 g, 0.16 mol) in conc HCl (30 mL) was added dropwise below 5° C. and stirred for 1 hour at 0° C. The mixture was made basic by addition of aqueous NaOH (pH=8). The resultant suspension was added THF (400 mL) and stirred for 10 min. The white precipitate was separated by celite filtration and washed with THF (100 mL×3). The filtrate was separated in two phase and organic phase was separated. Water phase was extracted with THF (150 mL×2), dried (MgSO4), and concentrated in vacuo gave brown oil. The oil was disolved in 10% HCl-MeOH (50 mL) and concentrated in vacuo gave brown amorphous solid. Crystallization from CH2Cl2 gave the titled compound as a brown solid (5.0 g, 56%).

reactant | 5-amino-2-pyridinesulfonamide | 0.040 mol, 7.0 g | NC=1C=CC(=NC1)S(=O)(=O)N | C5H7N3O2S
reactant | sodium nitrite | 0.052 mol, 3.6 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | 0.16 mol, 36 g | O.O.[Sn](Cl)Cl
reactant | NaOH | pH=8 | [OH-].[Na+]
solvent | HCl | 60 mL | Cl | ClH
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 50 mL | O | H2O
solvent | HCl | 30 mL | Cl | ClH
solvent | HCl MeOH | 50 mL | Cl.CO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 5-Hydrazino-2-pyridinesulfonamide Hydrochloride | 5.0 g, 56% | Cl.N(N)C=1C=CC(=NC1)S(=O)(=O)N | InChI=1S/C5H8N4O2S.ClH/c6-9-4-1-2-5(8-3-4)12(7,10)11;/h1-3,9H,6H2,(H2,7,10,11);1H
